US07683181B2
1c) N-{1-[4-(5-Isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-cyclohexylmethyl}-acetamide
600 mg of 5-isopropyl-(1,3,4-thiadiazol-2-ylamine were dissolved in 2 ml of pyridine. 1400 mg of 4-[1-(acetylamino-methyl)-cyclohexyl]-benzenesulfonyl chloride were added and the reaction mixture was stirred at room temperature for 15 hours. The pyridine was removed in vacuo and the residue coevaporated three times with portions of 100 ml toluene. The residue was purified by chromatography on silica gel with the eluents dichloromethane:methanol=95:5 to obtain 1.0 g of a light yellow oil.

reactant | 1,3,4-thiadiazol-2-ylamine | S1C(=NN=C1)N | C2H3N3S
reactant | 4-[1-(acetylamino-methyl)-cyclohexyl]-benzenesulfonyl chloride | 1400 mg | C(C)(=O)NCC1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C15H20ClNO3S
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-{1-[4-(5-Isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-cyclohexylmethyl}-acetamide | 1.0 g | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)C1(CCCCC1)CNC(C)=O | C20H28N4O3S2
